US07531553B2
To a solution of 3-hydroxybenzoic acid (10 g, 72 mmol, 1.0 eq.) in 100 mL of anhydrous dioxane was added SOCl2 (6.5 mL, 72 mmol, 1.0 eq.). The solution was heated to reflux and stirred for 4 h. The solvent was removed and the crude was dissolved in anhydrous THF (100 mL). A solution of 2 M CH3NH2 in THF (7.2 mL, 144 mmol, 2.0 eq.) was added upon which a white suspension was formed. The solvent was evaporated and the residue was dissolved in MTBE, washed with sat. NH4Cl (aq.). The organic layer was dried (MgSO4), filtered and concentrated. Further purification by column chromatography (0-100% EtOAc in hexanes) yielded 3-hydroxy-N-methyl-benzamide.

reactant | 3-hydroxybenzoic acid | 72 mmol, 10 g, 1.0 eq. | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | SOCl2 | 72 mmol, 6.5 mL, 1.0 eq. | O=S(Cl)Cl | Cl2OS
reactant | CH3NH2 | 2 M | CN | CH5N
reactant | THF | 144 mmol, 7.2 mL, 2.0 eq. | C1CCOC1 | C4H8O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 3-hydroxy-N-methyl-benzamide | OC=1C=C(C(=O)NC)C=CC1 | C8H9NO2
